US07262212B2
A mixture of 4-bromobenzotrifluoride (3.0 g, 13.3 mmol), N,N′-dimethylethylenediamine (9.4 g, 0.11 mol), palladium acetate (60 mg, 0.27 mmol), BINAP (250 mg, 0.40 mmol) and sodium tert-butoxide (1.80 g, 18.7 mmol) in toluene (20 ml) was refluxed under a nitrogen atmosphere for 3 hours. Ethyl acetate and water were added to the reaction mixture, and the mixture was stirred for a while. The insoluble substances were removed by filtration through Celite, and the filtrate was then extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=10/1) to afford N,N′-dimethyl-N-[4-(trifluoromethyl)phenyl]-1,2-ethylenediamine (650 mg, yield 21%) as a pale yellow oil.

reactant | 4-bromobenzotrifluoride | 13.3 mmol, 3.0 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | N,N′-dimethylethylenediamine | 0.11 mol, 9.4 g | CNCCNC | C4H12N2
reactant | BINAP | 0.40 mmol, 250 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 18.7 mmol, 1.80 g | CC(C)([O-])C.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.27 mmol, 60 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N′-dimethyl-N-[4-(trifluoromethyl)phenyl]-1,2-ethylenediamine | 650 mg, yield 21% | CN(CCNC)C1=CC=C(C=C1)C(F)(F)F | C11H15F3N2
